US06531477B1
To a stirred, cooled solution of 0.11 mL (1.26 mmol) of chlorosulfonyl isocyanate in 5 mL of CH2Cl2 was added 0.13 mL of t-BuOH. The solution was stirred 10 min. and added to a stirred, cooled (0° C.) solution of 231 mg (0.5 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one and 0.2 mL (1.4 mmol) of Et3N in 5 mL of CH2Cl2. The solution was stirred 1 h warming to ambient temperature, and it was then poured into 1 N aq. HCl. The mixture was extracted with EtOAc, and the organic extract was washed (brine), dried (MgSO4), concentrated under reduced pressure, and chromatographed on silica gel (elution with 1:1 EtOAc-hexanes, then EtOAc) to afford 250 mg (78%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(t-butoxycarbonylaminosulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a white solid. 1H NMR (300 MHz, DMSO) δ 12.44(s, 1H); 11.12(br. s, 1H); 9.70(br. s, 1H); 7.97(s, 2H); 7.21(d, 2H, J=8.4 Hz); 7.02(d, 2H, J=8.4 Hz); 3.78(s, 2H); 3.19-3.30(m, 1H); 1.27(d, 6H, J=6.9 Hz); 1.21(s, 9H).

reactant | chlorosulfonyl isocyanate | 1.26 mmol, 0.11 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.5 mmol, 231 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N)C(C)C | C21H18Cl3N5O
reactant | Et3N | 1.4 mmol, 0.2 mL | CCN(CC)CC | C6H15N
reactant | HCl | 1 N | Cl | ClH
reactant | t-BuOH | 0.13 mL | CC(C)(C)O | C4H10O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(t-butoxycarbonylaminosulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 250 mg, 78% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NS(=O)(=O)NC(=O)OC(C)(C)C)C(C)C | C26H27Cl3N6O5S
